US06239159B1
1-(4-carboxybutyl)-5-nitroindole (2)
To 1-(4-methoxy carbonyl butyl)5-nitroindole (0.5 g) was added molar sodium hydroxide (10 ml) and the solution stirred in an oil bath at 120° C. for 90 minutes. It was then cooled, water (10 ml) added and the solution extracted with ethyl acetate (2×15 ml). The combined organic extracts were washed with water (2×10 ml) and the combined aqueous extracts were acidified with molar HCl and extracted with ethyl acetate. (3×15 ml). The organic extracts were dried over anhydrous sodium sulphate, filtered and rotary evaporated to give a yellow gum. The gum was dissolved in hot chloroform, then hexane (2 ml) added and the solution cooled on ice when yellow crystals separated. These were filtered off and washed with chloroform:hexane (50:50) followed by hexane. The crystals were dried in vacuo (0.423 g, 1.61 mmol, 81%), MP 141-2° C. TLC on silica in toluene:methanol:acetic acid (90:16:8) gave one yellow spot and when viewed under UV. Mass spec and NMR analysis were as expected.

reactant | 1-(4-methoxy carbonyl butyl)5-nitroindole | 0.5 g | COC(=O)CCCCN1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C14H16N2O4
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | hexane | 2 ml | CCCCCC | C6H14
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-carboxybutyl)-5-nitroindole | C(=O)(O)CCCCN1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C13H14N2O4
